US07888366B2
To a solution of 3-methoxyacetophenone (3 g; 20 mmol) in methanol (60 mL) is added sodium borohydride (1.13 g; 30 mmol) in four portions over one hour. The reaction is stirred at room temperature overnight, neutralized with saturated ammonium chloride, and extracted with ethyl acetate. The organics are separated, washed with water, and dried over magnesium sulfate. The solvent is removed to give 2.62 grams of 1-(3-methoxyphenyl)-ethanol.

reactant | 3-methoxyacetophenone | 20 mmol, 3 g | CC(=O)C1=CC(=CC=C1)OC | C9H10O2
reactant | sodium borohydride | 30 mmol, 1.13 g | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 60 mL | CO | CH4O
product | 1-(3-methoxyphenyl)-ethanol | 2.62 grams | COC=1C=C(C=CC1)C(C)O | C9H12O2
